2201-02-09 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Continues to ooze around R IJ dressing
   - HCT 27.9 -> 29.9
   - Heparin d/c'd this AM
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Vancomycin - [**2201-2-8**] 08:56 PM
   Piperacillin - [**2201-2-9**] 05:32 AM
   Infusions:
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 880 units/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-8**] 08:56 PM
   Midazolam (Versed) - [**2201-2-9**] 06:02 AM
   Fentanyl - [**2201-2-9**] 06:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-9**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 102 (74 - 104) bpm
   BP: 130/75(88) {89/43(59) - 130/82(92)} mmHg
   RR: 26 (13 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    535 mL
                                                                    547 mL
   PO:
           TF:
   IVF:
                                                                    441 mL
                                                                    246 mL
   Blood products:
                                                                     94 mL
                                                                    281 mL
   Total out:
                                                                    220 mL
                                                                    230 mL
   Urine:
                                                                    220 mL
                                                                    230 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    315 mL
                                                                    317 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 550) mL
   PS : 10 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 32 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.44/49/77.[**Numeric Identifier 253**]/35/7
   Ve: 7.6 L/min
   PaO2 / FiO2: 195
   Physical Examination
   GEN: Obese. Intubated but somewhat interactive.
   HEENT: Pupils 3mm-->2mm bilaterally. OG in place. RIJ in place, oozing
   blood.
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Scattered wheezing throughout. Posterior exam limited.
   ABD: Soft. Left-sided tenderness with small anterior hematoma.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: Pupils as above. Moves all four extremities.
   Labs / Radiology
   336 K/uL
   9.7 g/dL
   182 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.4 mEq/L
   17 mg/dL
   92 mEq/L
   131 mEq/L
   27.9 %
   10.3 K/uL
        [image002.jpg]
                             [**2201-2-8**]  06:10 PM
                             [**2201-2-8**]  06:56 PM
                             [**2201-2-9**]  01:15 AM
                             [**2201-2-9**]  05:00 AM
   WBC
   14.1
   10.3
   Hct
   28.6
   27.9
   Plt
   462
   336
   Cr
   0.6
   0.5
   TropT
   0.14
   0.11
   TCO2
   34
   Glucose
   200
   182
   Other labs: PT / PTT / INR:16.3/53.8/1.5, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:39/42, Alk Phos / T Bili:104/0.5,
   Amylase / Lipase:/30, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and hyperlipids
   who presents on transfer with recurrent post-obstructive pneumonia.
   .
   1. RLL consolidation with post-obstructive pneumonia: Appears that this
   has been a recurrent issue since aspiration 3 months prior with recent
   bronchoscopy revealing foreign object.  Diffuse wheezing concerning for
   underlying reactive airway component.
   - Will likely need repeat rigid bronchoscopy here with possible
   intervention
 call IP this AM
   - Treat for likely post-obstructive PNA (Vanc Day 1 / Zosyn Day 6
   duration 14 days)
   - Wean steroids
   - Send sputum
   - SBT after bronch, likely extubate today, but concern for reactive
   airway, body habitus and met alkalosis
 consider NS bolus prior to
   extubation for alkalosis and clinically dry
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia.
   - Continue with aspirin
   - Beta-blocker as tolerated by BP
   - Stop heparin in AM [**2-9**] (48 hours)
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to >30 (29.9 this AM isOK)
 recheck [**Hospital1 **]
   - Repeat ECHO in AM
   - Serial ECGs
   - Consider cards consult for possible cardiac cath or future
   intervention
   3. Hyponatremia: [**Month (only) 8**] be secondary to diuresis at OSH though pulmonary
   process is suggestive of SIADH. Urine lytes show FENa of 0.28% so
   prerenal hypovolemia likely.
   - NS bolus prior to extubation and recheck PM lytes
   .
   4. Metabolic alkalosis: [**Month (only) 8**] be secondary to diuresis; OG has not been
   in very long.
   - NS bolus this PM
   .
   5. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   6. Diabetes: HISS
   .
   7. Hyperlipidemia: Statin; tricor is not formulary and likely okay to
   hold for now
   .
   FEN: NPO for now, will advance after extubation
   PPX: Heparin gtt; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2201-2-8**] 06:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-02-10 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - TTE: Mild symm LVH w/ EF>55%. Cannot exclude focal wall motion
   abnormality due to suboptimal technical quality. Mildly dilated RV w/
   mild global free wall hypokinesis. No AS/AR. Trivial MR. [**First Name (Titles) 3584**] [**Last Name (Titles) **] HTN.
   - Cardiology & CT [**Doctor First Name 91**] both consulted - pt. needs ischemia work-up when
   pulmonary issues resolved, likely cath; repeat TTE when extubated given
   discrepancy between images here and at OSH. Per cards can consider d/c
   b-blocker if wheezing/respiratory distress.
   - IP: Lesion in RUL perhaps c/w invasive aspergillis (biopsy sent),
   diffuse airway edema (ddx pulm edema vs endobronchial sarcoid), RML/RLL
   open but small lesion in RLL segment biopsied.
   - Sent off beta-glucan/galactomannin per IP recs. (has received 1 dose
   zosyn).
   - Extubated successfully, but poor gag reflex
   - steroids decreased from 40mg to 20mg Q8H
   - wrote for home pain regimen
   - CVL removed
   - hct, INR stable
   - acutely SOB in the evening & hypoxic in 80s; morphine 2 mg IV, EKG
   some T wave normalizations, CXR unchanged, placed on BiPAP, nitro gtt
   briefly for HTN.  Dyspnea & hypoxia improved.  Flash vs. aspiration?
   - similar episode later in the evening associated with turning, pain, &
   HTN. Briefly back on nitro gtt then stopped again.
   - another episode of dyspnea & anxiety, put back on CPAP & nitro gtt
   - speech & swallow eval ordered
   - 6:15 am chest tightness/pressure - EKG unchanged, NTG sl x 2 w/o
   improvement, nitro gtt, ativan 0.5 mg IV x 1 for anxiety, put back on
   CPAP - finally resolved
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Vancomycin - [**2201-2-9**] 08:03 PM
   Piperacillin - [**2201-2-9**] 10:00 PM
   Infusions:
   Nitroglycerin - 0.1 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2201-2-9**] 07:40 AM
   Pantoprazole (Protonix) - [**2201-2-9**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-9**] 10:00 PM
   Morphine Sulfate - [**2201-2-10**] 04:48 AM
   Lorazepam (Ativan) - [**2201-2-10**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-10**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.3
   HR: 99 (70 - 112) bpm
   BP: 142/83(98) {98/45(58) - 163/115(137)} mmHg
   RR: 27 (14 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,158 mL
                                                                     76 mL
   PO:
             TF:
   IVF:
                                                                  1,856 mL
                                                                     76 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                    780 mL
                                                                    370 mL
   Urine:
                                                                    780 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,378 mL
                                                                   -294 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PPS
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 604 (345 - 604) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 0 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.44/50/62/35/7
   Ve: 1.2 L/min
   PaO2 / FiO2: 124
   Physical Examination
   GEN: Obese. Intubated but somewhat interactive.
   HEENT: Pupils 3mm-->2mm bilaterally. OG in place. RIJ in place, oozing
   blood.
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Scattered wheezing throughout. Posterior exam limited.
   ABD: Soft. Left-sided tenderness with small anterior hematoma.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: Pupils as above. Moves all four extremities.
   Labs / Radiology
   384 K/uL
   10.1 g/dL
   203 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.3 mEq/L
   16 mg/dL
   93 mEq/L
   134 mEq/L
   30.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2201-2-8**]  06:10 PM
                             [**2201-2-8**]  06:56 PM
                             [**2201-2-9**]  01:15 AM
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
   WBC
   14.1
   10.3
   10.0
   10.5
   11.8
   Hct
   28.6
   27.9
   29.9
   29.1
   30.4
   Plt
   462
   336
   372
   357
   384
   Cr
   0.6
   0.5
   0.5
   TropT
   0.14
   0.11
   TCO2
   34
   35
   Glucose
   200
   182
   203
   Other labs: PT / PTT / INR:15.0/25.7/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:39/42, Alk Phos / T Bili:104/0.5,
   Amylase / Lipase:/30, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and hyperlipids
   who presents on transfer with recurrent post-obstructive pneumonia.
   .
   1. RLL consolidation with post-obstructive pneumonia: Appears that this
   has been a recurrent issue since aspiration 3 months prior with recent
   bronchoscopy revealing foreign object.  Diffuse wheezing concerning for
   underlying reactive airway component.  During course of overnight [**2-9**],
   patient had multiple episodes of SOB that are likely due to
   derecruitment, partial lung collapse and anxiety. IP performed flex
   bronch [**2-9**] with possible finding of aspergillus, but seems less likely
   due to short duration of steroids (~2-4 weeks), but CT findings of
   multiple small nodules are suggestive.
   - Start treatment for fungus with voriconazole
   - f/u bronch studies and sputum
   - Treat for likely post-obstructive PNA (Vanc Day 1 / Zosyn Day 6
   duration 14 days)
   - Will continue steroids at admission dose due to increased wheezing
   with drop in steroid dose on [**2-9**]
   - SBT after bronch, likely extubate today, but concern for reactive
   airway, body habitus and met alkalosis
 consider NS bolus prior to
   extubation for alkalosis and clinically dry
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia.
   - Continue with aspirin
   - Beta-blocker as tolerated by BP
   - Stop heparin in AM [**2-9**] (48 hours)
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to >30 (29.9 this AM isOK)
 recheck [**Hospital1 **]
   - Repeat ECHO in AM
   - Serial ECGs
   - Consider cards consult for possible cardiac cath or future
   intervention
   3. Hyponatremia: [**Month (only) 8**] be secondary to diuresis at OSH though pulmonary
   process is suggestive of SIADH. Urine lytes show FENa of 0.28% so
   prerenal hypovolemia likely.
   - NS bolus prior to extubation and recheck PM lytes
   .
   4. Metabolic alkalosis: [**Month (only) 8**] be secondary to diuresis; OG has not been
   in very long.
   - NS bolus this PM
   .
   5. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   6. Diabetes: HISS
   .
   7. Hyperlipidemia: Statin; tricor is not formulary and likely okay to
   hold for now
   .
   FEN: NPO for now, will advance after extubation
   PPX: Heparin gtt; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2201-2-9**] 03:33 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2201-02-10 09:17:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BRONCHOSCOPY - At [**2201-2-9**] 11:55 AM
 INVASIVE VENTILATION - STOP [**2201-2-9**] 02:55 PM
 MULTI LUMEN - STOP [**2201-2-9**] 03:33 PM
 NON-INVASIVE VENTILATION - START [**2201-2-9**] 06:10 PM
 EKG - At [**2201-2-10**] 05:57 AM
 CHEST PAIN - At [**2201-2-10**] 05:57 AM
   Chest tightness
   TTE-Symmetric LVH noted, mild PAH, no FWMA although quality limited
   Cardiology and CT Surgery evaluated patient and would consider longer
   term evaluation of possible ischemia
   Bronch--RUL with dark opacity--biopsied.  Diffuse edema noted
   throughout bronchial tree.  RML patent, RLL with partial occlusion of
   RLL bronchus.  B-glucan and galactomanin sent
   Overnight--Patient with paroxysms of dyspnea, wheezing, diaphoresis and
   hypoxia.  The triggers for the events are minimal stimulation.  She has
   possible ischemia--but ECG without changes.  She has possible
   aspiration--was taking po's (ice chips) at the time.  She has possible
   diffuse bronchospam or malacia which may be driving issues.  In
   addition paradoxical vocal cord motion is of concern.
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Piperacillin - [**2201-2-9**] 10:00 PM
   Vancomycin - [**2201-2-10**] 08:30 AM
   Infusions:
   Nitroglycerin - 0.7 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-9**] 08:03 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-9**] 10:00 PM
   Lorazepam (Ativan) - [**2201-2-10**] 06:00 AM
   Morphine Sulfate - [**2201-2-10**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea
   Flowsheet Data as of  [**2201-2-10**] 08:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.1
C (97
   Tcurrent: 35.6
C (96.1
   HR: 98 (70 - 112) bpm
   BP: 151/91(106) {98/45(58) - 163/115(137)} mmHg
   RR: 28 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  2,158 mL
                                                                    292 mL
   PO:
             TF:
   IVF:
                                                                  1,856 mL
                                                                    292 mL
   Blood products:
                                                                    281 mL
   Total out:
                                                                    780 mL
                                                                    450 mL
   Urine:
                                                                    780 mL
                                                                    450 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,378 mL
                                                                   -158 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: Standby
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 465 (345 - 604) mL
   PS : 5 cmH2O
   RR (Set): 15
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 10 cmH2O
   Plateau: 22 cmH2O
   SpO2: 99%
   ABG: 7.44/50/62/35/7
   Ve: 7.5 L/min
   PaO2 / FiO2: 124
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   384 K/uL
   203 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.3 mEq/L
   16 mg/dL
   93 mEq/L
   134 mEq/L
   30.4 %
   11.8 K/uL
        [image002.jpg]
                             [**2201-2-8**]  06:10 PM
                             [**2201-2-8**]  06:56 PM
                             [**2201-2-9**]  01:15 AM
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
   WBC
   14.1
   10.3
   10.0
   10.5
   11.8
   Hct
   28.6
   27.9
   29.9
   29.1
   30.4
   Plt
   462
   336
   372
   357
   384
   Cr
   0.6
   0.5
   0.5
   TropT
   0.14
   0.11
   TCO2
   34
   35
   Glucose
   200
   182
   203
   Other labs: PT / PTT / INR:15.0/25.7/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:39/42, Alk Phos / T Bili:104/0.5,
   Amylase / Lipase:/30, Differential-Neuts:86.0 %, Band:0.0 %, Lymph:0.0
   %, Mono:10.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: 7.44/50/62
   Assessment and Plan
   69 yo female with obesity and following reported aspiration of foreign
   body has not evolved a patter of recurrent and acute evolution of
   hypoxia--this is associated with wheezing--monophonic and very
   responsive to NIV.  This may well represent a combination of proximal
   airway compromise--with perhaps some malacia and some upper airway
   compromise.  This in combination with a component of reactive airways
   disease may represent acute trigger.  The role of dynamic changes in
   LVEDP was entertained but response has been minimal to interventions,
   ECG without change and CK's wnl.
   !)Respiratory Failure
Will need to maintain maximal treatment for
   reactive airways disease and recruitment of collapsed lung units.
   Doubt active ischemia is playing a role but will continue ECG
   monitoring.
   -Will continue with BIPAP 10/5 for intermittent support-This for lung
   recruitment and decreased work of breathing
   -Will continue vanco/zosyn
   -Will need to maintain low threshold for initiation of anti-fungal and
   will maintain close follow up of cultures
   -Will return to 40mg Solumedrol q 8 hours
both for bronchospasm and
   laryngeal edema which may be playing a role
   -Will continue with Atrovent/Albuterol
   -Will maintain NPO and pursue speech and swallow eval prior to return
   to full po
   -Ativan PRN for anxiety
   2)Foreign Body-
   -Some diffuse airway edema seen throughout on bronch
   -When patient stable will continue to pursue CT for airway examination
   going forward when stable
   -Will need time for resolution of post obstructive pneumonia
   -Will Rx with anti-fungals for positive findings on bronch
   3)Cardiac Ischemia-
   -Follow up ECHO when stable
   -Daily ECG has been reassuring
with only subtle T-wave changes and no
   evidence of transmural injury
   -Will avoid B-blocker if recurrent bronchospasm seen following
   administration
   -Heparin completed and retain high threshold for use given significant
   bleeding from right neck
   -Will continue ASA
   -Wean TNG to off and maintain BP control with po meds as possible
will
   return to ACE-I
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: npo
pending speech and swallow
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2201-2-9**] 03:33 PM
Will need additional access and prefer
   PICC placement today
   Prophylaxis:
   DVT: Boots, Hep SQ
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2201-02-11 06:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Persistent RLL obstruction
   24 Hour Events:
 PICC LINE - START [**2201-2-10**] 12:45 PM
 NON-INVASIVE VENTILATION - STOP [**2201-2-10**] 06:30 PM
 INVASIVE VENTILATION - START [**2201-2-10**] 06:30 PM
 ARTERIAL LINE - START [**2201-2-10**] 09:44 PM
   - Was on BiPAP from 10 am until 5 pm. C/o extreme air hunger/panic and
   desatted to 82% upon transition to shovel mask with FiO2 of 50%, within
   5 minutes. ABG: 7.36/63/48/37 O2 sat 78%.  Back to BiPAP with O2 sat
   back to upper 90s, pt symptomatically somewhat better. Still severe
   tachypnea; intubated in an non-emergent fashion. OGT and A line placed.
   - CTA chest for ?PE and PNA: No PE. Bilateral apical and perihilar
   ground glass opacities. RLL opacity. B/L pleural effusions, R>L.
   Small air in periportal region, outside portal vein, could be bilary
   tree air ? ERCP, GI procedures.
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Vancomycin - [**2201-2-10**] 08:02 PM
   Voriconazole - [**2201-2-10**] 11:58 PM
   Piperacillin - [**2201-2-11**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2201-2-10**] 02:45 PM
   Lorazepam (Ativan) - [**2201-2-10**] 02:50 PM
   Pantoprazole (Protonix) - [**2201-2-10**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-11**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 69 (67 - 140) bpm
   BP: 154/68(94) {128/68(89) - 178/90(122)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,125 mL
                                                                    297 mL
   PO:
             TF:
   IVF:
                                                                  1,125 mL
                                                                    297 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    380 mL
   Urine:
                                                                  1,140 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                    -83 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 514 (391 - 514) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 29 cmH2O
   Plateau: 22 cmH2O
   Compliance: 38.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/55/86/39/10
   Ve: 7 L/min
   PaO2 / FiO2: 172
   Physical Examination
   GEN: intubated, sedated, awakes to voice
   HEENT: NCAT, intubated
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Scattered wheezing throughout.
   ABD: Soft. Obese. NT.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: PERRL. Moves all four extremities.
   Labs / Radiology
   346 K/uL
   9.7 g/dL
   193 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   97 mEq/L
   136 mEq/L
   29.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2201-2-8**]  06:56 PM
                             [**2201-2-9**]  01:15 AM
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
   WBC
   10.3
   10.0
   10.5
   11.8
   8.3
   Hct
   27.9
   29.9
   29.1
   30.4
   29.0
   Plt
   [**Telephone/Fax (3) 5227**]84
   346
   Cr
   0.5
   0.5
   0.5
   TropT
   0.11
   TCO2
   34
   35
   37
   36
   39
   Glucose
   182
   203
   193
   Other labs: PT / PTT / INR:15.2/28.5/1.3, ALT / AST:39/42, Alk Phos / T
   Bili:104/0.5, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL;
   MICRO: BAL: neg for legionella, PJP, fungus, acid fast bacteria,
   nocardia; viral & bacterial cxs pending; galactomannan & beta-glucan
   pending
   RADIOLOGY
 CTA chest prelim read: No central, segmental or large
   subsegmental PE. The distal subsegmental vessels are not well
   opacified. Apparent filling defects in the subsegmental distribution
   which in correlation with the MIPS appear to be mixing and/or partial
   volume from underlying pulmonary pathology. Bilateral apical and
   perihilar ground glass opacities, D/D includes pulmonary edema,
   atypical infections, in certain clinical setting pulmonary hemorrhage.
   RLL opacity, part of which may be compressive atelectasis from the
   associated right sided effusion, however a concomitant RLL pneumonia
   remains in the differential. There are B/L pleural effusions, R>L.
   Small air in periportal region, outside portal vein, could be bilary
   tree air? ERCP, GI procedures.
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and
   hyperlipidemia who presents on transfer with recurrent post-obstructive
   pneumonia.
   .
   1. Hypoxia / Dyspnea / RLL consolidation with post-obstructive
   pneumonia: Dyspnea has been a recurrent issue since aspiration 3 months
   prior with recent bronchoscopy revealing foreign object.  Diffuse
   wheezing concerning for underlying reactive airway component.  IP
   performed flex bronch [**2-9**] with possible finding of aspergillus, but
   seems less likely due to short duration of steroids (~2-4 weeks).
   Intubated on [**2-10**] due to hypoxia and fatigue.  CTA on [**2-10**] showed no
   evidence of PE.  Dense consolidation in RLL likely post-obstructive
   PNA.  However, R and L upper lobes both with diffuse ground glass
   opacities which could represent infection vs. inflammation.  Will cont.
   broad spectrum abx for HAP.  Will uptitrate steroids to treat for
   organizing pneumonitis in upper lobes.
   - Vanc (D1 [**2-10**]) & zosyn (D1 [**2-4**]) for post-obstructive PNA for 2 week
   course of each
   - Voriconazole (D1 [**2-10**]) for possible aspergillosis
   - Bactrim (D1 [**2-10**]) for PJP prophylaxis
   - Increase steroids to methylpred 80 mg IV Q8H for organizing
   pneumonitis (D1 = [**2-11**]) for 1 week course then slow taper
   - f/u bronch studies and sputum
   - Cont anxiolytics and nebs for dyspnea
   - Needs speech and swallow eval when extubated and taking POs
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia. Had chest
   pressure during acute dyspneic episode on [**2-9**], EKG unchanged, CXR
   unchanged. TTE showed mild changes, but nothing suggesting acute
   ischemia, however, image quality poor. Will likely need repeat TTE and
   outpatient imaging vs. cath.
   - Continue with aspirin
   - D/c the Beta-blocker per Cards recs as patient having wheezing
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to >30
 stable
   - Serial ECGs and will cycle CE if worsens
   - Repeat TTE when extubated.
   - F/u Cards and CT [**Doctor First Name 91**] recs
   .
   3. Hypertension: On max dose of Ramipril at home.  Has been
   hypertensive here.
   - increase enalapril dose & cont. to monitor.
   .
   4. Hyperlipidemia: pravastatin; tricor is not formulary and likely okay
   to hold for now
   .
   5. Diabetes: RISS
   .
   6. Hyponatremia: Resolved. Urine lytes show FENa of 0.28% so prerenal
   hypovolemia likely.
   - Trend Na
   .
   7. Metabolic alkalosis: Stable.
   - Trend lytes
   .
   8. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   .
   FEN: Start tube feeds, replete lytes prn, S/S eval when extubated and
   ready to start POs
   PPX: HSC; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-11 10:14:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PICC LINE - START [**2201-2-10**] 12:45 PM
 NON-INVASIVE VENTILATION - STOP [**2201-2-10**] 06:30 PM
 INVASIVE VENTILATION - START [**2201-2-10**] 06:30 PM
 ARTERIAL LINE - START [**2201-2-10**] 09:44 PM
   Patient with intubation in the setting of clear progressive respiratory
   distress and decline to ventilatory failure
   7.36/63/48 on ABG at the time.
   CTA--No PE, bilateral ground glass opacities, RLL opacity with
   bilateral pleural effusions noted.  Importantly air in peri-portal
   region noted on CT scan
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-10**] 11:58 PM
   Piperacillin - [**2201-2-11**] 06:00 AM
   Vancomycin - [**2201-2-11**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Morphine Sulfate - [**2201-2-10**] 02:45 PM
   Lorazepam (Ativan) - [**2201-2-10**] 02:50 PM
   Pantoprazole (Protonix) - [**2201-2-10**] 08:02 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-11**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Tachypnea
   Flowsheet Data as of  [**2201-2-11**] 09:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.3
   HR: 67 (66 - 140) bpm
   BP: 160/70(97) {128/66(89) - 178/90(122)} mmHg
   RR: 14 (14 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 60 Inch
             Total In:
                                                                  1,125 mL
                                                                    636 mL
   PO:
             TF:
   IVF:
                                                                  1,125 mL
                                                                    576 mL
   Blood products:
   Total out:
                                                                  1,140 mL
                                                                    455 mL
   Urine:
                                                                  1,140 mL
                                                                    455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -15 mL
                                                                    181 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 514 (391 - 514) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 30 cmH2O
   Plateau: 24 cmH2O
   Compliance: 33.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.44/55/86/35/10
   Ve: 7.3 L/min
   PaO2 / FiO2: 172
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Patient with mild expiratory wheezes
   noted
   Abdominal: Soft, Non-tender, Bowel sounds present
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   346 K/uL
   193 mg/dL
   0.5 mg/dL
   35 mEq/L
   4.0 mEq/L
   16 mg/dL
   97 mEq/L
   136 mEq/L
   29.0 %
   8.3 K/uL
        [image002.jpg]
                             [**2201-2-8**]  06:56 PM
                             [**2201-2-9**]  01:15 AM
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
   WBC
   10.3
   10.0
   10.5
   11.8
   8.3
   Hct
   27.9
   29.9
   29.1
   30.4
   29.0
   Plt
   [**Telephone/Fax (3) 5227**]84
   346
   Cr
   0.5
   0.5
   0.5
   TropT
   0.11
   TCO2
   34
   35
   37
   36
   39
   Glucose
   182
   203
   193
   Other labs: PT / PTT / INR:15.2/28.5/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:17/16, Alk Phos / T Bili:69/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:3.0 g/dL,
   LDH:247 IU/L, Ca++:8.8 mg/dL, Mg++:2.0 mg/dL, PO4:2.6 mg/dL
   Imaging: CT Scan--Diffuse, upper lobe predominant ground glass
   opacities with rare areas of consolt
   Microbiology: Leg, nocardia, Viral Cultures, Fungal cultures, bacterial
   cultures with not evidence of pathogen
   Assessment and Plan
   63 yo female with initial insult of aspiration event and now with
   persistent
   1)Respiratory Failure-This is in the setting of diffuse ground glass
   opacities most prominent at apices and upper lobes.  This has persisted
   and progressed despite ongoing ABX Rx and medium dose steroids and
   recently anti-fungal therapy.  This certainly could be atypical
   infection with PCP as perhaps the only remaining [**Doctor Last Name **] incompletely
   covered at this time.  She has an extensive area of upper lobe
   involvement, TB unlikely with patient history
she has had PCP negative
   by BAL, Sarcoidosis is possible and can be upper lobe dominant but in
   this case would be expected to be responsive to steroid Rx
   -Will increase steroids to 80mg q 8 hours for possible organizing
   pneumonitis
   -Will continue with Vanco/Zosyn for antibiotics
   -Will continue bactrim prophylaxis
   -Continue with A/C Support
   -Daily CXR
   -Will D/C beta blocker to minimize airflow obstruction
   -Will need to maintain patency in RLL airways to allow sputum clearance
   and continued aeration
   2)Pneumonia-
   Zosyn/Vanco
   Bactrim 1 tab qd
   Voriconazole to continue
   3)Airways Obstruction-
   -Follow up bronch Results
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CHEST PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANXIETY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 75 minutes

2201-02-12 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: persistent RLL obstruction
   24 Hour Events:
   - D/c'd voriconazole - B-glycan and galactomannin neg, no aspergillus
   seen on path specimen
   - Final CT Read: No central PE. Bilateral upper lobe and perihilar
   ground-glass opacities w/ septal thickening could represent pulmonary
   edema or infection. 3.Dense opacity RLL likely represents persistent
   PNA w/coexisting atelectasis from adjacent effusion. BL mod effusions,
   R>L. Densely calcified lymph nodes, suggest prior granulomatous
   exposure. Evidence of pulmonary hypertension. Air in biliary tree.
   - Received 1 dose of spironolactone this am for HTN, metabolic
   alkalosis, and [**Month (only) 453**] K+, ?hyperaldosteronism?
   - Tube feeds not given due to special formula, will start today
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Vancomycin - [**2201-2-11**] 08:00 PM
   Piperacillin - [**2201-2-12**] 05:45 AM
   Infusions:
   Fentanyl - 120 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-11**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-12**] 07:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.7
C (96.2
   HR: 72 (60 - 101) bpm
   BP: 163/65(95) {128/59(82) - 171/82(111)} mmHg
   RR: 14 (14 - 25) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,809 mL
                                                                    475 mL
   PO:
             TF:
   IVF:
                                                                  2,489 mL
                                                                    415 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    190 mL
   Urine:
                                                                    940 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,869 mL
                                                                    285 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 293
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.50/44/83/36/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   GEN: intubated, sedated, awakes to voice
   HEENT: NCAT, intubated
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Scattered wheezing throughout.
   ABD: Soft. Obese. NT.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: PERRL. Moves all four extremities.
   Labs / Radiology
   278 K/uL
   9.8 g/dL
   223 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.7 mEq/L
   16 mg/dL
   98 mEq/L
   138 mEq/L
   28.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
   WBC
   10.3
   10.0
   10.5
   11.8
   8.3
   4.8
   Hct
   27.9
   29.9
   29.1
   30.4
   29.0
   28.6
   Plt
   [**Telephone/Fax (3) 5227**]84
   346
   278
   Cr
   0.5
   0.5
   0.4
   TCO2
   35
   37
   36
   39
   41
   36
   Glucose
   [**Telephone/Fax (3) 5237**]
   Other labs: PT / PTT / INR:15.5/26.7/1.4, ALT / AST:15/13, Alk Phos / T
   Bili:65/0.4, Albumin:2.8 g/dL, LDH:204 IU/L, Ca++:9.0 mg/dL, Mg++:2.1
   mg/dL, PO4:2.3 mg/dL
   1.  Lung, right lower lobe, endobronchial biopsy (A):
        A. Bronchial mucosa with squamous metaplasia, chronic
   inflammation, and focal fibroblastic proliferation. See note.
        B. Fibrinous exudate admixed with acute and chronic inflammatory
   cells.
   2.  Lung, right upper lobe, endobronchial biopsy (B):
        Bronchial mucosa with minimal chronic inflammation.
   Note: A GMS stain performed on block A is negative for fungal
   organisms.
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and
   hyperlipidemia who presents on transfer with recurrent post-obstructive
   pneumonia.
   .
   1. Hypoxia / Dyspnea / RLL consolidation with post-obstructive
   pneumonia: Dyspnea has been a recurrent issue since aspiration 3 months
   prior with recent bronchoscopy revealing foreign object.  Diffuse
   wheezing concerning for underlying reactive airway component.  IP
   performed flex bronch [**2-9**] with possible finding of aspergillus, but
   seems less likely due to short duration of steroids (~2-4 weeks).
   Intubated on [**2-10**] due to hypoxia and fatigue.  CTA on [**2-10**] showed no
   evidence of PE.  Dense consolidation in RLL likely post-obstructive
   PNA.  However, R and L upper lobes both with diffuse ground glass
   opacities which could represent infection vs. inflammation.  Will cont.
   broad spectrum abx for HAP.  Will uptitrate steroids to treat for
   organizing pneumonitis in upper lobes.  Bronchoscopy specimen suggests
   that sarcoid is not contributing and again no evidence for
   aspergillosis.  Results also consistent with pneumonitis
   - Vanc (D1 [**2-10**]) & zosyn (D1 [**2-4**]) for post-obstructive PNA for 2 week
   course of each
   - Voriconazole (D1 [**2-10**]) for possible aspergillosis stopped [**2-10**]
   - Bactrim (D1 [**2-10**]) for PJP prophylaxis
   - Increase steroids to methylpred 80 mg IV Q8H for organizing
   pneumonitis (D1 = [**2-11**]) for 1 week course then slow taper
   - Cont anxiolytics and nebs for dyspnea
   - Needs speech and swallow eval when extubated and taking POs
   - Will ask IP to perform thoracentesis to r/u empyema given larger
   pleural effusion on R on CXR & persistent PNA
   - Increase PEEP to 10 to open up atelectatic airspaces
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia. Had chest
   pressure during acute dyspneic episode on [**2-9**], EKG unchanged, CXR
   unchanged. TTE showed mild changes, but nothing suggesting acute
   ischemia, however, image quality poor. Will likely need repeat TTE and
   outpatient imaging vs. cath.
   - Continue with aspirin
   - D/c the Beta-blocker per Cards recs as patient having wheezing
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to >30
 stable
   - Serial ECGs and will cycle CE if worsens
   - Repeat TTE when extubated.
   - F/u Cards and CT [**Doctor First Name 91**] recs
   .
   3. Hypertension: On max dose of Ramipril at home.  Has been
   hypertensive here.
   - increase enalapril dose again & cont. to monitor.
   - d/c spironolactone
   .
   4. Hyperlipidemia: pravastatin; tricor is not formulary and likely okay
   to hold for now
   .
   5. Diabetes: [**Last Name (LF) **], [**First Name3 (LF) 124**] titrate up sliding scale as pt. has been
   hyperglycemic, likely because of steroids.  Will need to further
   increase when TF are started.  Will likely need some standing
   long-acting insulin
   .
   6. Hyponatremia: Resolved. Urine lytes show FENa of 0.28% so prerenal
   hypovolemia likely.
   - Trend Na
   .
   7. Metabolic alkalosis: Worse today.
   - Diamox 250 mg [**Hospital1 **] x 2 doses
   - d/c spironolactone
   .
   8. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   9. Anxiety:
   - cont. to reassure patient
   - midazolam boluses prn
   .
   FEN: Start tube feeds, replete lytes prn, S/S eval when extubated and
   ready to start POs
   PPX: HSC; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-12 10:53:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   CT--RLL opacity and diffuse bilateral ground glass confirmed on final
   [**Location (un) 118**]
   Patient continued on full A/C support
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Piperacillin - [**2201-2-12**] 05:45 AM
   Vancomycin - [**2201-2-12**] 08:00 AM
   Infusions:
   Fentanyl - 120 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-11**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Nutritional Support: Tube feeds
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2201-2-12**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 65 (60 - 101) bpm
   BP: 160/66(95) {128/59(82) - 168/79(107)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,809 mL
                                                                    855 mL
   PO:
             TF:
   IVF:
                                                                  2,489 mL
                                                                    735 mL
   Blood products:
   Total out:
                                                                    940 mL
                                                                    235 mL
   Urine:
                                                                    940 mL
                                                                    235 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,869 mL
                                                                    620 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 28 cmH2O
   Plateau: 23 cmH2O
   SpO2: 100%
   ABG: 7.50/44/82.[**Numeric Identifier 253**]/33/9
   Ve: 7.4 L/min
   PaO2 / FiO2: 166
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Wheezes : rare expiratory, Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   278 K/uL
   223 mg/dL
   0.4 mg/dL
   33 mEq/L
   3.7 mEq/L
   16 mg/dL
   98 mEq/L
   138 mEq/L
   28.6 %
   4.8 K/uL
        [image002.jpg]
                             [**2201-2-9**]  05:00 AM
                             [**2201-2-9**]  06:37 AM
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
   WBC
   10.3
   10.0
   10.5
   11.8
   8.3
   4.8
   Hct
   27.9
   29.9
   29.1
   30.4
   29.0
   28.6
   Plt
   [**Telephone/Fax (3) 5227**]84
   346
   278
   Cr
   0.5
   0.5
   0.4
   TCO2
   35
   37
   36
   39
   41
   36
   Glucose
   [**Telephone/Fax (3) 5237**]
   Other labs: PT / PTT / INR:15.5/26.7/1.4, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:9.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.3 mg/dL
   Microbiology: No new from BAL-
   Path from
   RLL--squamous metaplasia and fibrinous exudate with fibroblasts
   RUL--minimal chronic inflammation
   no evidence of fungi seen
   Assessment and Plan
   63 yo female with initial presentation with aspiration of FB and
   suggestion of post obstructive pneumonia now with progression to
   recurrent hypoxemic respiratory failure.
   Respiratory Failure--Hypoxemic and associated wtih diffuse ground glass
   opacities
certainly pulmonary edema is possible but response to
   interventions as only transient and progression to some areas of
   consolidation argues that it is not simply pulmonary edema and move to
   diuresis in the setting of alkalosis is difficult.  Will need to
   evaluate pleural space fluid further.
   -Thoracentesis today to evaluate nature of fluid in right chest with
   cell count
   -Will move to diuresis today in the setting of pulmonary edema
   suggested and will need to stabilize metabolic acidosis at this
   time
move to diamox for 24 hours
   -Continue with Solumedrol 80mg tid
   -Continue with Bactrim prophylaxis
   -Continue with antibacterials
   -Will move to PSV support with 12/10
   -Will check urine histo today
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition: TF
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2201-02-13 06:49:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Diamox x 2 doses
   - urine histoplasma ag ordered
   - glargine 10 units QHS ordered & increased [** **]
   - Thoracentesis fluid c/w transudate - lasix 40 mg IV x 1 with good
   diuresis
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Vancomycin - [**2201-2-12**] 08:23 PM
   Piperacillin - [**2201-2-12**] 10:22 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-2-12**] 09:05 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-12**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-13**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.7
C (96.2
   HR: 74 (63 - 96) bpm
   BP: 100/46(64) {96/46(64) - 165/79(110)} mmHg
   RR: 11 (7 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,911 mL
                                                                    367 mL
   PO:
             TF:
                                                                    160 mL
                                                                    157 mL
   IVF:
                                                                  1,491 mL
                                                                    210 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    420 mL
   Urine:
                                                                  1,885 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                    -53 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 500) mL
   Vt (Spontaneous): 902 (300 - 1,154) mL
   PS : 12 cmH2O
   RR (Set): 14
   RR (Spontaneous): 4
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 23 cmH2O
   Compliance: 26.9 cmH2O/mL
   SpO2: 99%
   ABG: 7.47/46/142/30/9
   Ve: 5.3 L/min
   PaO2 / FiO2: 284
   Physical Examination
   GEN: intubated, sedated
   HEENT: NCAT, ETT
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Mostly CTAB, with very minimal wheezing
   ABD: Soft. Obese. NT.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: PERRL. Moves all four extremities.
   Labs / Radiology
   300 K/uL
   9.6 g/dL
   257 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   28.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2201-2-9**]  01:34 PM
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
   WBC
   10.5
   11.8
   8.3
   4.8
   6.6
   Hct
   29.1
   30.4
   29.0
   28.6
   28.9
   Plt
   357
   384
   346
   278
   300
   Cr
   0.5
   0.5
   0.4
   0.6
   TCO2
   35
   37
   36
   39
   41
   36
   34
   Glucose
   [**Telephone/Fax (3) 5269**]57
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and
   hyperlipidemia who presents on transfer with recurrent post-obstructive
   pneumonia.
   .
   1. Hypoxia / Dyspnea / RLL consolidation with post-obstructive
   pneumonia: Dyspnea has been a recurrent issue since aspiration 3 months
   prior with recent bronchoscopy revealing foreign object.  Diffuse
   wheezing concerning for underlying reactive airway component.  IP
   performed flex bronch [**2-9**] with possible finding of aspergillus, but
   seems less likely due to short duration of steroids (~2-4 weeks).
   Intubated on [**2-10**] due to hypoxia and fatigue.  CTA on [**2-10**] showed no
   evidence of PE.  Dense consolidation in RLL likely post-obstructive
   PNA.  However, R and L upper lobes both with diffuse ground glass
   opacities which could represent infection vs. inflammation.  Will cont.
   broad spectrum abx for HAP.  Will uptitrate steroids to treat for
   organizing pneumonitis in upper lobes.  Bronchoscopy specimen suggests
   that sarcoid is not contributing and again no evidence for
   aspergillosis.  Results also consistent with pneumonitis (BOOP/COP).
   Thoracentesis [**2-12**] c/w transudate.
   - Lasix 40 x1 given with good diuresis and stable met alkalosis with
   Diamox
 consider additional diuresis if resp status improves
   - Vanc day 4 (D1 [**2-10**]) & zosyn day10 (D1 [**2-4**]) for post-obstructive PNA
   for 2 week course of each
   - Bactrim day 4 (D1 [**2-10**]) for PJP prophylaxis
   - Continue steroids -  methylpred 80 mg IV Q8H for organizing
   pneumonitis
 day 3 (D1 = [**2-11**]) for 1 week course then slow taper
   - Cont anxiolytics and nebs for dyspnea
 d/c
d Cymbalta ER (can
t put
   it down NGT) changed to Paxil 30mg qday
   - Needs speech and swallow eval when extubated and taking POs
   - Will decrease PS/PEEP to attempt to wean to extubation
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia. Had chest
   pressure during acute dyspneic episode on [**2-9**], EKG unchanged, CXR
   unchanged. TTE showed mild changes, but nothing suggesting acute
   ischemia, however, image quality poor. Will likely need repeat TTE and
   outpatient imaging vs. cath.
   - Continue with aspirin
   - D/c the Beta-blocker per Cards recs as patient having wheezing
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to ~30
 stable
   - Repeat TTE when extubated.
   - F/u Cards and CT [**Doctor First Name 91**] recs
   .
   3. Hypertension: On max dose of Ramipril at home.  Has been
   hypertensive here.
   - increase enalapril dose again & cont. to monitor.
   .
   4. Hyperlipidemia: pravastatin; tricor is not formulary and likely okay
   to hold for now
   .
   5. Diabetes: [**Last Name (LF) **], [**First Name3 (LF) 124**] titrate up sliding scale as pt. has been
   hyperglycemic, likely because of steroids.  Will need to further
   increase when TF are started.  Will likely need some standing
   long-acting insulin
   .
   6. Hyponatremia: Resolved. Urine lytes show FENa of 0.28% so prerenal
   hypovolemia likely.
   - Trend Na
   .
   7. Metabolic alkalosis: stable.  Diamox 250 mg [**Hospital1 **] x 2 doses with good
   result.
   - Lasix gtt started today to attempt to remove another 500cc by this
   evening
   .
   8. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   9. Anxiety:
   - cont. to reassure patient
   - midazolam boluses prn
   .
   FEN: TF started [**2-12**], replete lytes prn, S/S eval when extubated and
   ready to start Pos, cont to tighten ISS
   PPX: HSC; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2201-2-13**] 04:28 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-13 12:08:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 THORACENTESIS - At [**2201-2-12**] 11:45 AM--Transudative fluid
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Piperacillin - [**2201-2-12**] 10:22 PM
   Vancomycin - [**2201-2-13**] 08:10 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2201-2-12**] 09:05 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-12**] 10:22 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Flowsheet Data as of  [**2201-2-13**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 71 (63 - 96) bpm
   BP: 140/65(88) {96/46(64) - 162/79(110)} mmHg
   RR: 6 (6 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,911 mL
                                                                    913 mL
   PO:
             TF:
                                                                    160 mL
                                                                    307 mL
   IVF:
                                                                  1,491 mL
                                                                    526 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    770 mL
   Urine:
                                                                  1,885 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     26 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV
   Vt (Set): 350 (350 - 500) mL
   Vt (Spontaneous): 639 (300 - 1,154) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 96%
   ABG: 7.42/49/150/30/6
   Ve: 5.3 L/min
   PaO2 / FiO2: 300
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
Markedly prolonged expiratory phase.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.6 g/dL
   300 K/uL
   257 mg/dL
   0.6 mg/dL
   30 mEq/L
   4.3 mEq/L
   20 mg/dL
   99 mEq/L
   135 mEq/L
   28.9 %
   6.6 K/uL
        [image002.jpg]
                             [**2201-2-9**]  06:07 PM
                             [**2201-2-10**]  02:15 AM
                             [**2201-2-10**]  05:05 PM
                             [**2201-2-10**]  10:14 PM
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
                             [**2201-2-13**]  11:24 AM
   WBC
   11.8
   8.3
   4.8
   6.6
   Hct
   30.4
   29.0
   28.6
   28.9
   Plt
   384
   346
   278
   300
   Cr
   0.5
   0.5
   0.4
   0.6
   TCO2
   35
   37
   36
   39
   41
   36
   34
   33
   Glucose
   [**Telephone/Fax (3) 5269**]57
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:9.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
   63 yo female admitted with respiratory failure and with persistent
   hypoxemia and diffuse pulmonary infiltrates with initial insult of
   aspiration of forien body but now with post obstructive pneumonia,
   organizing pneumonitis and/or pulmonary edema.  Patient had has wean in
   PSV support through this morning with good stability of venilation.  In
   the setting of attempt at diuresis patient has had good stability of
   creatinine and mild improvement in ventilation/oxygenation on
   decreasing ventilatory support settings.
   1)Respiratory Failure-Multiple issues contributing to failure at this
   time as defined above, will-->
   For likely pneumonia->
   Vanco/Zosyn
   Bactim prophylaxis
   For possible organizing pneumonitis-->
   Methylprednisolone 80 mg tid (D #3)
   For possible reactive airways disease/COPD contribution->
   -continue bronchodilator therapy
   For Possible pulmonary edema
   -Will move to negative fluid balance today to look for capacity to
   clear opacities
   -Will have to monitor for change in creatinine and Blood pressure
   - Anxiety
careful titration of sedation and will move rapidly from
   support to extubation.
   CHF-
   -Continue to titrate ACE to stabilize BP and optimize afterload
   reduction.
   Additional issues to be addressed as defined in the housestaff note of
   this date.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2201-2-13**] 04:28 AM 30 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Husband and family visiting updated in full
   during morning rounds and exam.
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2201-02-14 07:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - on Lasix gtt, diuresed well
   - increased glargine to 20 units qhs
   - PEEP down to 5
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Vancomycin - [**2201-2-13**] 08:00 PM
   Piperacillin - [**2201-2-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-13**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-13**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-14**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 65 (65 - 94) bpm
   BP: 147/60(87) {117/52(75) - 193/87(123)} mmHg
   RR: 18 (6 - 19) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,323 mL
                                                                    661 mL
   PO:
             TF:
                                                                    743 mL
                                                                    272 mL
   IVF:
                                                                  1,200 mL
                                                                    359 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                  2,275 mL
   Urine:
                                                                  2,385 mL
                                                                  2,275 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -62 mL
                                                                 -1,614 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 903 (129 - 903) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 14 cmH2O
   SpO2: 97%
   ABG: 7.49/49/130/33/13
   Ve: 10.3 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GEN: intubated, sedated
   HEENT: NCAT, ETT
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Mostly CTAB, with very minimal wheezing
   ABD: Soft. Obese. NT.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: PERRL. Moves all four extremities.
   Labs / Radiology
   265 K/uL
   9.7 g/dL
   243 mg/dL
   0.6 mg/dL
   33 mEq/L
   3.4 mEq/L
   22 mg/dL
   99 mEq/L
   136 mEq/L
   29.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
                             [**2201-2-13**]  11:24 AM
                             [**2201-2-13**]  04:38 PM
                             [**2201-2-13**]  05:22 PM
                             [**2201-2-14**]  06:00 AM
                             [**2201-2-14**]  06:08 AM
   WBC
   8.3
   4.8
   6.6
   6.8
   Hct
   29.0
   28.6
   28.9
   29.0
   Plt
   346
   278
   300
   265
   Cr
   0.5
   0.4
   0.6
   0.6
   TCO2
   39
   41
   36
   34
   33
   34
   38
   Glucose
   193
   223
   257
   243
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:9.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and
   hyperlipidemia who presents on transfer with recurrent post-obstructive
   pneumonia.
   .
   1. Hypoxia / Dyspnea / RLL consolidation with post-obstructive
   pneumonia: Dyspnea has been a recurrent issue since aspiration 3 months
   prior with recent bronchoscopy revealing foreign object.  Diffuse
   wheezing concerning for underlying reactive airway component.  IP
   performed flex bronch [**2-9**] with possible finding of aspergillus, but
   seems less likely due to short duration of steroids (~2-4 weeks).
   Intubated on [**2-10**] due to hypoxia and fatigue.  CTA on [**2-10**] showed no
   evidence of PE.  Dense consolidation in RLL likely post-obstructive
   PNA.  However, R and L upper lobes both with diffuse ground glass
   opacities which could represent infection vs. inflammation.  Will cont.
   broad spectrum abx for HAP.  Will uptitrate steroids to treat for
   organizing pneumonitis in upper lobes.  Bronchoscopy specimen suggests
   that sarcoid is not contributing and again no evidence for
   aspergillosis.  Results also consistent with pneumonitis (BOOP/COP).
   Thoracentesis [**2-12**] c/w transudate.
   - Lasix gtt with good diuresis and stable met alkalosis
   - Vanc day 5 (D1 [**2-10**]) & zosyn day 11 (D1 [**2-4**]) for post-obstructive
   PNA for 2 week course of each
   - Bactrim day 4 (D1 [**2-10**]) for PJP prophylaxis while on steroids
   - Continue steroids -  methylpred 80 mg IV Q8H for organizing
   pneumonitis
 day 4 (D1 = [**2-11**]) for 1 week course then slow taper
   - Cont anxiolytics and nebs for dyspnea
 changed Paxil 30mg qday (can
   be crushed for NGT)
   - Needs speech and swallow eval when extubated and taking POs
   - Will decrease PS/PEEP to attempt to wean to extubation
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia. Had chest
   pressure during acute dyspneic episode on [**2-9**], EKG unchanged, CXR
   unchanged. TTE showed mild changes, but nothing suggesting acute
   ischemia, however, image quality poor. Will likely need repeat TTE and
   outpatient imaging vs. cath.
   - Continue with aspirin
   - Hold the Beta-blocker per Cards recs as patient having wheezing
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to ~30
 stable
   - Repeat TTE when extubated.
   - F/u Cards and CT [**Doctor First Name 91**] recs
   .
   3. Hypertension: On max dose of Ramipril at home.  Has been
   hypertensive here.
   - Cont enalapril dose again & cont. to monitor.
   - Will consider restarting B-blocker post extubation
   .
   4. Hyperlipidemia: cont pravastatin; tricor is not formulary and likely
   okay to hold for now
   .
   5. Diabetes: RISS, was increased [**2-12**] and [**2-13**].  Will likely need some
   standing long-acting insulin
   .
   6. Hyponatremia: Resolved.
   - Trend Na
   .
   7. Metabolic alkalosis: stable.  Diamox 250 mg [**Hospital1 **] x 2 doses with good
   result.
   - Lasix gtt started [**2-13**], brisk UOP overnight
   - Increase K+ to 4.5 for likely improvement of alkalosis
 hold
   acetazolamide for now
   .
   8. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   9. Anxiety:
   - cont. to reassure patient
   - midazolam boluses prn
   .
   FEN: TF started [**2-12**], replete lytes prn, S/S eval when extubated and
   ready to start Pos, cont to tighten ISS
   PPX: HSC; PPI
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2201-2-13**] 10:00 PM 35 mL/hour
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-14 11:33:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   --Patient with diuresis yesterday with lasix GTT--and 2 liters negative
   over yesterday
   --PEEP decrease to 5 and overall settings decrased to [**7-1**]
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Voriconazole - [**2201-2-11**] 12:00 PM
   Vancomycin - [**2201-2-13**] 08:00 PM
   Piperacillin - [**2201-2-14**] 06:00 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 100 mcg/hour
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2201-2-13**] 08:08 PM
   Heparin Sodium (Prophylaxis) - [**2201-2-13**] 10:15 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-14**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.1
C (97
   HR: 77 (65 - 94) bpm
   BP: 142/60(86) {109/56(80) - 193/87(123)} mmHg
   RR: 8 (6 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  2,323 mL
                                                                  1,058 mL
   PO:
             TF:
                                                                    743 mL
                                                                    393 mL
   IVF:
                                                                  1,200 mL
                                                                    575 mL
   Blood products:
   Total out:
                                                                  2,385 mL
                                                                  2,965 mL
   Urine:
                                                                  2,385 mL
                                                                  2,965 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -62 mL
                                                                 -1,907 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 214 (129 - 903) mL
   PS : 8 cmH2O
   RR (Set): 12
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 90
   PIP: 14 cmH2O
   SpO2: 98%
   ABG: 7.49/49/130/36/13
   Ve: 6.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.7 g/dL
   265 K/uL
   222 mg/dL
   0.5 mg/dL
   36 mEq/L
   2.9 mEq/L
   21 mg/dL
   93 mEq/L
   135 mEq/L
   29.0 %
   6.8 K/uL
        [image002.jpg]
                             [**2201-2-11**]  03:57 AM
                             [**2201-2-11**]  05:51 PM
                             [**2201-2-12**]  03:43 AM
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
                             [**2201-2-13**]  11:24 AM
                             [**2201-2-13**]  04:38 PM
                             [**2201-2-13**]  05:22 PM
                             [**2201-2-14**]  06:00 AM
                             [**2201-2-14**]  06:08 AM
   WBC
   8.3
   4.8
   6.6
   6.8
   Hct
   29.0
   28.6
   28.9
   29.0
   Plt
   346
   278
   300
   265
   Cr
   0.5
   0.4
   0.6
   0.6
   0.5
   TCO2
   39
   41
   36
   34
   33
   34
   38
   Glucose
   193
   223
   257
   243
   222
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: 7.49/49/130
   Imaging: CXR--Improved aeration of lungs bilaterally
   Assessment and Plan
   63 yo female--admit with respiratory compromise in the setting of
   recent history for aspiration of foreign body, some significant
   evidence of airflow obstruction (FEV1/FVC=77% pred) who has evolved
   multifocal infiltrates consistent with multifocal pneumonia which was
   exacerbated by dynamic airflow obstruction and a possible component of
   organizing pneumonitis and/or pulmonary edema.  Case discssed as
   pulmonary clinical conference and concensus was for continued Rx of
   multiple possible etiologies contributing to recurrent hypoxemic and
   hypercarbic respiratory failure.
   1)Respiratory Failure-Some good dynamic changes with diuresis and PEEP
   able to be weaned.
   -Pneumonia--Vanco/Zosyn
   -Batrim for Prophylaxis
   -Pulmonary Edema--Continue Lasix gtt--goal negative 2 liters
   today--Lytes repleteda and Lasix gtt at 4
   -COPD-Alb/Atrovent and systemic steroids continuing
   -Will continue to look for optimal window for extubation
move to [**3-31**]
   today with RSBI <105
   -Trial on 5/0 x 30 minutes today
   -Mental status excellent and if pulmonary mechanics favorable could
   trial extubation
   -Wean steroids following 5 day course completion
 DIABETES MELLITUS (DM), TYPE II-
   -Uptitration of insulin dosing
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 CHEST PAIN
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 ANXIETY
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2201-2-13**] 10:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT: hep sq
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2201-02-15 07:15:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-2-14**] 01:16 PM
   - Extubated
   - on Lasix gtt, diuresed well
   - Glargine increased to 30 units qhs
   - Titrate pain med - started morphine and Ativan
   - K repletion throughout the day
   - received a dose of labetalol for hypotension
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Piperacillin - [**2201-2-14**] 06:00 AM
   Vancomycin - [**2201-2-14**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-2-15**] 12:00 AM
   Morphine Sulfate - [**2201-2-15**] 06:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2201-2-15**] 07:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.3
C (97.4
   HR: 61 (61 - 96) bpm
   BP: 156/67(95) {109/56(80) - 183/128(258)} mmHg
   RR: 14 (8 - 20) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,961 mL
                                                                    175 mL
   PO:
             TF:
                                                                    530 mL
   IVF:
                                                                  1,341 mL
                                                                    175 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                  1,750 mL
   Urine:
                                                                  4,865 mL
                                                                  1,750 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,904 mL
                                                                 -1,575 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 350 (350 - 350) mL
   Vt (Spontaneous): 792 (214 - 792) mL
   PS : 5 cmH2O
   RR (Set): 12
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 6 cmH2O
   SpO2: 93%
   ABG: 7.44/51/102/37/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 204
   Physical Examination
   GEN: alert and oriented, NAD
   HEENT: NCAT
   CV: Regular. No apparent murmurs though heart sounds are distant.
   PULM: Mostly CTAB, with very minimal wheezing
   ABD: Soft. Obese. NT.
   EXT: Warm B/L. Trace edema bilaterally.
   NEURO: PERRL. Moves all four extremities.
   Labs / Radiology
   243 K/uL
   10.3 g/dL
   136 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.6 mEq/L
   17 mg/dL
   91 mEq/L
   132 mEq/L
   29.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
                             [**2201-2-13**]  11:24 AM
                             [**2201-2-13**]  04:38 PM
                             [**2201-2-13**]  05:22 PM
                             [**2201-2-14**]  06:00 AM
                             [**2201-2-14**]  06:08 AM
                             [**2201-2-14**]  12:43 PM
                             [**2201-2-14**]  05:00 PM
                             [**2201-2-15**]  03:05 AM
   WBC
   6.6
   6.8
   8.4
   Hct
   28.9
   29.0
   29.9
   Plt
   300
   265
   243
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   33
   34
   38
   36
   Glucose
   257
   243
   222
   224
   136
   Other labs: PT / PTT / INR:14.9/28.1/1.3, Ca++:9.4 mg/dL, Mg++:1.9
   mg/dL, PO4:2.6 mg/dL
   No new micro data
   Assessment and Plan
   63F with history of sarcoidosis, diabetes, hypertension and
   hyperlipidemia who presents on transfer with recurrent post-obstructive
   pneumonia.
   .
   1. Hypoxia / Dyspnea / RLL consolidation with post-obstructive
   pneumonia: Dyspnea has been a recurrent issue since aspiration 3 months
   prior with recent bronchoscopy revealing foreign object.  Diffuse
   wheezing concerning for underlying reactive airway component.  IP
   performed flex bronch [**2-9**] with possible finding of aspergillus, but
   seems less likely due to short duration of steroids (~2-4 weeks).
   Intubated on [**2-10**] due to hypoxia and fatigue.  CTA on [**2-10**] showed no
   evidence of PE.  Dense consolidation in RLL likely post-obstructive
   PNA.  However, R and L upper lobes both with diffuse ground glass
   opacities which could represent infection vs. inflammation.  Will cont.
   broad spectrum abx for HAP.  Will uptitrate steroids to treat for
   organizing pneumonitis in upper lobes.  Bronchoscopy specimen suggests
   that sarcoid is not contributing and again no evidence for
   aspergillosis.  Results also consistent with pneumonitis (BOOP/COP).
   Thoracentesis [**2-12**] c/w transudate.  Patient now doing much better after
   aggressive diuresis with lasix gtt and several days of high dose
   steroids.  Respiratory distress may have been more related to volume
   overload than BOOP.  Successfully extubated on [**2-14**].
   - transition to lasix 40 mg IV BID with goal -1-2L/day
   - Vanc day 5 (D1 [**2-10**]) & zosyn day 11 (D1 [**2-4**]) for post-obstructive
   PNA for 2 week course of each
   - Bactrim day 4 (D1 [**2-10**]) for PJP prophylaxis while on steroids
   - Continue steroids but will titrate down as more likely volume
   overload than BOOP -  methylpred 80 mg IV Q8H for organizing
   pneumonitis
 (D1 = [**2-11**]) changed to prednisone 30 mg PO daily on
   [**2-15**].  Will keep on this dose for several days then titrate down with
   slow taper
   - Cont anxiolytics and nebs for dyspnea
 changed Paxil back to home
   duloxetine/Cymbalta
   - Needs speech and swallow eval when extubated and taking POs
   .
   2. NSTEMI: Ruled-in at OSH with peak troponin I of 2.69. ECG showed
   antero-lateral changes but no ST-elevations. Does not seem consistent
   with an acute plaque rupture but rather demand ischemia. Had chest
   pressure during acute dyspneic episode on [**2-9**], EKG unchanged, CXR
   unchanged. TTE showed mild changes, but nothing suggesting acute
   ischemia, however, image quality poor. Will likely need repeat TTE and
   outpatient imaging vs. cath.
   - Continue with aspirin
   - Hold the Beta-blocker per Cards recs as patient having wheezing
   - Home statin; has not tolerated atorvastatin in past and given that
   ACS is less likely, can defer max dose for now
   - Transfuse to ~30
 stable
   - Repeat TTE when extubated.
   - F/u Cards and CT [**Doctor First Name 91**] recs
   .
   3. Hypertension: On max dose of Ramipril at home.  Has been
   hypertensive here, though improved with labetalol.
   - Stop enalapril and labetalol and transition back to home dose
   ramipril now that she is extubated.
   .
   4. Hyperlipidemia: cont pravastatin; tricor is not formulary and likely
   okay to hold for now
   .
   5. Diabetes: RISS, and glargine
 monitor FSBS and titrate down as
   blood sugars improve with decreased steroids.
   .
   6. Hyponatremia: Resolved.
   - Trend Na
   .
   7. Metabolic alkalosis: stable.  Diamox 250 mg [**Hospital1 **] x 2 doses with good
   result.  Cont. aggressive diuresis for now as patient continues to
   improve.
   - Increase K+ to 4.5 for likely improvement of alkalosis
 hold
   acetazolamide for now
   .
   8. Leukocytosis: Resolved by HOD 2. Could be sec to infection that is
   being treated currently.
   - Follow daily
   .
   9. Anxiety:
   - cont. to reassure patient
   - ativan prn
   .
   FEN: TF started [**2-12**], replete lytes prn, soft mechanical diet with
   thickened liquids today (pt. appears to cough after thin liquids) with
   S/S eval tomorrow.
   PPX: HSC; PPI while on high dose steroids
   FULL CODE
   CONTACT: [**Name (NI) 5021**] [**Name (NI) 5183**] (husband) - [**Telephone/Fax (1) 5184**]; [**Doctor Last Name 169**] (daughter) -
   [**Telephone/Fax (1) 5185**]; [**Name (NI) 5186**] (son) - [**Telephone/Fax (1) 5187**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2201-02-15 10:34:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2201-2-14**] 01:16 PM
   -Good stability of oxygenation following extubation
   -Significant diuresis across time
   -Labetolol started for hypertension to maintain stability of BP
   -Patient weaned to NC--[**12-30**] lpm
   History obtained from Patient
   Allergies:
   Ketorolac
   diarrhea;
   Nalbuphine
   Arrhythmia/Palp
   Simvastatin
   diarrhea;
   Atorvastatin
   diarrhea;
   Crestor (Oral) (Rosuvastatin Calcium)
   joint discomfor
   Last dose of Antibiotics:
   Piperacillin - [**2201-2-14**] 06:00 AM
   Vancomycin - [**2201-2-15**] 09:00 AM
   Infusions:
   Furosemide (Lasix) - 4 mg/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2201-2-15**] 12:00 AM
   Morphine Sulfate - [**2201-2-15**] 10:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Respiratory: Cough, Tachypnea, present but improved
   Signs or concerns for abuse : No
   Flowsheet Data as of  [**2201-2-15**] 10:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 59 (59 - 96) bpm
   BP: 156/65(89) {156/65(89) - 156/65(89)} mmHg
   RR: 19 (8 - 20) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 61 Inch
             Total In:
                                                                  1,961 mL
                                                                    482 mL
   PO:
             TF:
                                                                    530 mL
   IVF:
                                                                  1,341 mL
                                                                    482 mL
   Blood products:
   Total out:
                                                                  4,865 mL
                                                                  2,250 mL
   Urine:
                                                                  4,865 mL
                                                                  2,250 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,904 mL
                                                                 -1,768 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 792 (792 - 792) mL
   PS : 5 cmH2O
   RR (Spontaneous): 8
   PEEP: 0 cmH2O
   FiO2: 50%
   RSBI: 23
   PIP: 6 cmH2O
   SpO2: 95%
   ABG: 7.44/51/102/37/8
   Ve: 6.8 L/min
   PaO2 / FiO2: 204
   Physical Examination
   General Appearance: Overweight / Obese
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.3 g/dL
   243 K/uL
   136 mg/dL
   0.5 mg/dL
   37 mEq/L
   3.6 mEq/L
   17 mg/dL
   91 mEq/L
   132 mEq/L
   29.9 %
   8.4 K/uL
        [image002.jpg]
                             [**2201-2-12**]  08:14 PM
                             [**2201-2-13**]  02:56 AM
                             [**2201-2-13**]  11:24 AM
                             [**2201-2-13**]  04:38 PM
                             [**2201-2-13**]  05:22 PM
                             [**2201-2-14**]  06:00 AM
                             [**2201-2-14**]  06:08 AM
                             [**2201-2-14**]  12:43 PM
                             [**2201-2-14**]  05:00 PM
                             [**2201-2-15**]  03:05 AM
   WBC
   6.6
   6.8
   8.4
   Hct
   28.9
   29.0
   29.9
   Plt
   300
   265
   243
   Cr
   0.6
   0.6
   0.5
   0.5
   0.5
   TCO2
   34
   33
   34
   38
   36
   Glucose
   257
   243
   222
   224
   136
   Other labs: PT / PTT / INR:14.9/28.1/1.3, CK / CKMB /
   Troponin-T:21/3/0.11, ALT / AST:15/13, Alk Phos / T Bili:65/0.4,
   Amylase / Lipase:/30, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:3.0
   %, Mono:5.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.8 g/dL,
   LDH:204 IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Imaging: CXR--persistent RLL opacity consistent with collapse in the
   setting of previous obstruction.  Some significant resolution of upper
   lobe ground glass opacities consistent with pulmonary edema.
   Assessment and Plan
   63 yo female with history of sarcoidosis and with multifactorial
   sources of hypoxemic respiratory failure.  She has had response to
   intervention for infection, organizing pneumonia and with rapid
   improvement in oxygenationand respiratory status with diuresis over
   past two days with stable extubation.  She does have residual
   persistence of RLL collapse in area of previous aspiration and
   obstruction.  We have had concern for LV function based on echo and
   given brisk response to diuresis suggesting significant pulmonary edema
   certainly evaluation for possible ischemic heart disease would be
   warranted during this admission.  Patient with severe impaired motor
   strenth--dominantly in lower extremities.
   1)Respiratory Failure
Now, strongest issue facing her is the
   deconditioning and keeping favorable BP and HR control and negative
   fluid balance.  She has had significant improvement in infiltrates.
   -Will decrease steroids to 40mg pred qd and taper over the course of 7
   days as limited by her bronchospasm as the argument for organizing
   pneumonitis is not supported by the rapid response to diuretics and
   resolution of iniltrates substantially at 5 days of Rx
   -Will need continued diuresis with Lasix 40mg [**Hospital1 **]
   -Will replace KCL to 4.5 goal and to minimize alkalosis
   -Continue with Advair for COPD
   -Will need completion of cardiac ischemia evaluation in the setting of
   significant argument for possible myocardial ischemia contributing to
   respiratory failure is present
   -Complete ABX
   2)Hypertension
   -Will move to home regiment of BP control medications
   -Labetolol with good effect
   3)CAD-
   -ASA
   -Pravastatin
   -Will need to complete evaluation
   Additional issues to be managed as defined in the housestaff note of
   this date
   ICU Care
   Nutrition: Move to PO and with speech and swallow eval to follow
   Glycemic Control:
   Lines:
   PICC Line - [**2201-2-10**] 12:45 PM
   Arterial Line - [**2201-2-10**] 09:44 PM
   20 Gauge - [**2201-2-10**] 10:20 PM
   Prophylaxis:
   DVT: OOB to Chair
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :To Floor
   Total time spent: 36 minutes